US07951954B2
c) N-[4-(2-Oxoethyl)benzyl]-N-(2-phenylethyl)carbamic acid tert-butyl ester
[4-(2-Hydroxyethyl)benzyl]-(2-phenylethyl)carbamic acid tert-butyl ester (238 mg) in dichloromethane (10 mL) was treated with Dess-Martin periodinane (341 mg) and stirred for 1 hour. The reaction mixture was added to a mixture of ethyl acetate (10 mL), saturated aqueous sodium thiosulphate solution (10 mL) and saturated aqueous sodium bicarbonate (10 mL), and the mixture was stirred vigorously for 10 minutes. The phases were separated. The aqueous layer was extracted with ethyl acetate and the combined organics were washed with water, dried (magnesium sulfate) and evaporated to give the subtitle compound as an oil (232 mg).

reactant | [4-(2-Hydroxyethyl)benzyl]-(2-phenylethyl)carbamic acid tert-butyl ester | 238 mg | C(C)(C)(C)OC(N(CCC1=CC=CC=C1)CC1=CC=C(C=C1)CCO)=O | C22H29NO3
reactant | Dess-Martin periodinane | 341 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulphate | 10 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-(2-Oxoethyl)benzyl]-N-(2-phenylethyl)carbamic acid tert-butyl ester | 232 mg | C(C)(C)(C)OC(N(CCC1=CC=CC=C1)CC1=CC=C(C=C1)CC=O)=O | C22H27NO3
